US20010006969A1
2-Allylamino-7-methyl-4-pivaloylaminothieno[3,2-d] pyrimidine
To a solution of 150 mg (0.68 mmol) of 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine and 83 mg (0.82 mmol) of triethylamine in dichloromethane was added 82 mg (0.68 mmol) of pivaloyl chloride, followed by heating under reflux for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=¼] to give 90 mg (yield: 43.5%) of the title compound.

reactant | 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine | 0.68 mmol, 150 mg | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)N | C10H12N4S
reactant | triethylamine | 0.82 mmol, 83 mg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.68 mmol, 82 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Allylamino-7-methyl-4-pivaloylaminothieno[3,2-d] pyrimidine | 90 mg, yield: 43.5% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(C(C)(C)C)=O | C15H20N4OS
